US07119205B2
3-(4′-fluoro-1,1′-biphenyl-4-yl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To an ambient slurry of 3-(4-bromophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (0.030 g, 0.086 mmol), 4-fluorophenyl boronic acid (0.024 g, 0.173 mmol) and cesium carbonate (0.084 g, 0.26 mmol) in DME/PhCH3/EtOH/H2O (10/1/6/3 ratio, 2 mL) was added palladium tetrakis(triphenylphosphine) (0.001 g, 0.0009 mmol) in a single portion. The reaction was heated at 60° C. for 16 h, cooled to room temperature, filtered, concentrated and purified by RP-HPLC to afford the title compound. MS (DCI/NH3) m/e 362.2 (M+H)+; 1H NMR (300 MHz, DMSO-d6): δ ppm 12.51 (br s, 1H), 7.75 (dd, 2H), 7.64 (d, 2H), 7.52 (d, 2H), 7.31 (apparent t, 2H), 7.07 (s, 1H).

reactant | 3-(4-bromophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.086 mmol, 0.030 g | BrC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7BrN2O2S
reactant | 4-fluorophenyl boronic acid | 0.173 mmol, 0.024 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 0.26 mmol, 0.084 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME PhCH3 EtOH H2O | 2 mL | COCCOC.C1(=CC=CC=C1)C.CCO.O
catalyst | palladium tetrakis(triphenylphosphine) | 0.0009 mmol, 0.001 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-(4′-fluoro-1,1′-biphenyl-4-yl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C20H11FN2O2S
